US08048899B2
To a solution of 5 g (21 mmol) of 2-(azetidine-1-sulfonyl)-2-methyl-propionic acid ethyl ester in THF (200 mL) at room temperature are added 8.2 g (64 mmol) of potassium trimethylsilanolate. The reaction is stirred for 1 h. The mixture is diluted with 1M aqueous HCl solution (50 mL) and extracted with DCM (250 mL). The organic phase is dried over Na2SO4, filtered and the filtrate is concentrated under reduced pressure to provide 4.1 g of 2-(azetidine-1-sulfonyl)-2-methyl-propionic acid as a white solid. Yield: 94%, ES-MS: m/z 208 [M+H].

reactant | 2-(azetidine-1-sulfonyl)-2-methyl-propionic acid ethyl ester | 21 mmol, 5 g | C(C)OC(C(C)(C)S(=O)(=O)N1CCC1)=O | C9H17NO4S
reactant | potassium trimethylsilanolate | 64 mmol, 8.2 g | C[Si]([O-])(C)C.[K+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | HCl | 1M, 50 mL | Cl | ClH
product | 2-(azetidine-1-sulfonyl)-2-methyl-propionic acid | 4.1 g, Yield: 94% | N1(CCC1)S(=O)(=O)C(C(=O)O)(C)C | C7H13NO4S
